US05101048
Preparation of 4-cyanophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside (Example 22a)
1 ml of a 0.1M solution of boron trifluoride etherate in methylene chloride is added at -15° C., under an inert atmosphere, to a suspension of 250 mg (0.57.10-3 mol) of 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl trichloroacetimidate, 57 mg (0.48.10-3 mol) of 4-hydroxybenzonitrile and a molecular sieve (1 nm) in 10 ml of methylene chloride. The reaction medium is allowed to return gradually to 0° C. and, after a reaction time of 3 h, is neutralized with sodium bicarbonate. The reaction mixture is then washed with water and dried over magnesium sulfate, MgSO4, and the solvent is evaporated off under reduced pressure. 150 mg (yield: 80%) of the expected product are obtained after purification by chromatography on silica gel using a hexane/ethyl acetate mixture (2/1 v/v) as the eluent.

reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl trichloroacetimidate | 57.10-3 mol, 250 mg | ClC(C(O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)CS1)=N)(Cl)Cl | C13H16Cl3NO7S
reactant | 4-hydroxybenzonitrile | 48.10-3 mol, 57 mg | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-cyanophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | 150 mg, yield: 80% | C(C)(=O)O[C@H]1[C@H](OC2=CC=C(C=C2)C#N)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C18H19NO7S
